* sar_+0.3000000
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/adc/adc_blocks.spice
.temp 27
.options reltol=1e-5 abstol=1e-14 vntol=1e-8 method=gear
* Testbench digital sequencer is ideal; analog decision path is SKY130 MOS/MIM.
VDD vdd 0 1.8
VCM cm 0 .9
VRP srp 0 1.1
VRN srn 0 .7
RRP srp rp 10
RRN srn rn 10
VIP srcp 0 1.05
VIN srcn 0 0.75
RSP srcp ip 350
RSN srcn inn 350
VEN en 0 PWL(0 1.8 2.49u 1.8 2.491u 0)
VENB enb 0 PWL(0 0 2.49u 0 2.491u 1.8)
XSP ip tp en enb vdd 0 adc_tgate
XSN inn tn en enb vdd 0 adc_tgate
RDC_P tp 0 1e15
RDC_N tn 0 1e15
XCMP tp tn op on clk vdd 0 adc_strongarm DSIZE=0
CLOADP op 0 5f
CLOADN on 0 5f
BDEC decision 0 V=(V(op)>V(on)) ? 1.8 : 0
.model MEMSW sw ron=1 roff=1e18 vt=.9 vh=.1
VSAVE11 save11 0 PWL(0 0 3.099e-06 0 3.1e-06 1.8 3.115e-06 1.8 3.116e-06 0)
SSAVE11 decision mem11 save11 0 MEMSW
CMEM11 mem11 0 1p
RMEM11 mem11 0 1e15
.ic V(mem11)=0
BBIT11 bit11 0 V=(time < 2.5e-06) ? 0 : ((time < 3.117e-06) ? 1.8 : V(mem11))
BNBIT11 nbit11 0 V=1.8-V(bit11)
Bp11_cm_en p11_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp11_cm_enb p11_cm_enb 0 V=1.8-V(p11_cm_en)
Xp11_cm bp11 cm p11_cm_en p11_cm_enb vdd 0 adc_tgate WN=8 WP=16
Bp11_rp_en p11_rp_en 0 V=((time > 2.52u) && (V(nbit11) > .9)) ? 1.8 : 0
Bp11_rp_enb p11_rp_enb 0 V=1.8-V(p11_rp_en)
Xp11_rp bp11 rp p11_rp_en p11_rp_enb vdd 0 adc_tgate WN=8 WP=16
Bp11_rn_en p11_rn_en 0 V=((time > 2.52u) && (V(nbit11) <= .9)) ? 1.8 : 0
Bp11_rn_enb p11_rn_enb 0 V=1.8-V(p11_rn_en)
Xp11_rn bp11 rn p11_rn_en p11_rn_enb vdd 0 adc_tgate WN=8 WP=16
Bn11_cm_en n11_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn11_cm_enb n11_cm_enb 0 V=1.8-V(n11_cm_en)
Xn11_cm bn11 cm n11_cm_en n11_cm_enb vdd 0 adc_tgate WN=8 WP=16
Bn11_rp_en n11_rp_en 0 V=((time > 2.52u) && (V(bit11) > .9)) ? 1.8 : 0
Bn11_rp_enb n11_rp_enb 0 V=1.8-V(n11_rp_en)
Xn11_rp bn11 rp n11_rp_en n11_rp_enb vdd 0 adc_tgate WN=8 WP=16
Bn11_rn_en n11_rn_en 0 V=((time > 2.52u) && (V(bit11) <= .9)) ? 1.8 : 0
Bn11_rn_enb n11_rn_enb 0 V=1.8-V(n11_rn_en)
Xn11_rn bn11 rn n11_rn_en n11_rn_enb vdd 0 adc_tgate WN=8 WP=16
VSAVE10 save10 0 PWL(0 0 3.724e-06 0 3.725e-06 1.8 3.74e-06 1.8 3.741e-06 0)
SSAVE10 decision mem10 save10 0 MEMSW
CMEM10 mem10 0 1p
RMEM10 mem10 0 1e15
.ic V(mem10)=0
BBIT10 bit10 0 V=(time < 3.125e-06) ? 0 : ((time < 3.742e-06) ? 1.8 : V(mem10))
BNBIT10 nbit10 0 V=1.8-V(bit10)
Bp10_cm_en p10_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp10_cm_enb p10_cm_enb 0 V=1.8-V(p10_cm_en)
Xp10_cm bp10 cm p10_cm_en p10_cm_enb vdd 0 adc_tgate WN=8 WP=16
Bp10_rp_en p10_rp_en 0 V=((time > 2.52u) && (V(nbit10) > .9)) ? 1.8 : 0
Bp10_rp_enb p10_rp_enb 0 V=1.8-V(p10_rp_en)
Xp10_rp bp10 rp p10_rp_en p10_rp_enb vdd 0 adc_tgate WN=8 WP=16
Bp10_rn_en p10_rn_en 0 V=((time > 2.52u) && (V(nbit10) <= .9)) ? 1.8 : 0
Bp10_rn_enb p10_rn_enb 0 V=1.8-V(p10_rn_en)
Xp10_rn bp10 rn p10_rn_en p10_rn_enb vdd 0 adc_tgate WN=8 WP=16
Bn10_cm_en n10_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn10_cm_enb n10_cm_enb 0 V=1.8-V(n10_cm_en)
Xn10_cm bn10 cm n10_cm_en n10_cm_enb vdd 0 adc_tgate WN=8 WP=16
Bn10_rp_en n10_rp_en 0 V=((time > 2.52u) && (V(bit10) > .9)) ? 1.8 : 0
Bn10_rp_enb n10_rp_enb 0 V=1.8-V(n10_rp_en)
Xn10_rp bn10 rp n10_rp_en n10_rp_enb vdd 0 adc_tgate WN=8 WP=16
Bn10_rn_en n10_rn_en 0 V=((time > 2.52u) && (V(bit10) <= .9)) ? 1.8 : 0
Bn10_rn_enb n10_rn_enb 0 V=1.8-V(n10_rn_en)
Xn10_rn bn10 rn n10_rn_en n10_rn_enb vdd 0 adc_tgate WN=8 WP=16
VSAVE9 save9 0 PWL(0 0 4.349e-06 0 4.35e-06 1.8 4.365e-06 1.8 4.366e-06 0)
SSAVE9 decision mem9 save9 0 MEMSW
CMEM9 mem9 0 1p
RMEM9 mem9 0 1e15
.ic V(mem9)=0
BBIT9 bit9 0 V=(time < 3.75e-06) ? 0 : ((time < 4.367e-06) ? 1.8 : V(mem9))
BNBIT9 nbit9 0 V=1.8-V(bit9)
Bp9_cm_en p9_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp9_cm_enb p9_cm_enb 0 V=1.8-V(p9_cm_en)
Xp9_cm bp9 cm p9_cm_en p9_cm_enb vdd 0 adc_tgate WN=8 WP=16
Bp9_rp_en p9_rp_en 0 V=((time > 2.52u) && (V(nbit9) > .9)) ? 1.8 : 0
Bp9_rp_enb p9_rp_enb 0 V=1.8-V(p9_rp_en)
Xp9_rp bp9 rp p9_rp_en p9_rp_enb vdd 0 adc_tgate WN=8 WP=16
Bp9_rn_en p9_rn_en 0 V=((time > 2.52u) && (V(nbit9) <= .9)) ? 1.8 : 0
Bp9_rn_enb p9_rn_enb 0 V=1.8-V(p9_rn_en)
Xp9_rn bp9 rn p9_rn_en p9_rn_enb vdd 0 adc_tgate WN=8 WP=16
Bn9_cm_en n9_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn9_cm_enb n9_cm_enb 0 V=1.8-V(n9_cm_en)
Xn9_cm bn9 cm n9_cm_en n9_cm_enb vdd 0 adc_tgate WN=8 WP=16
Bn9_rp_en n9_rp_en 0 V=((time > 2.52u) && (V(bit9) > .9)) ? 1.8 : 0
Bn9_rp_enb n9_rp_enb 0 V=1.8-V(n9_rp_en)
Xn9_rp bn9 rp n9_rp_en n9_rp_enb vdd 0 adc_tgate WN=8 WP=16
Bn9_rn_en n9_rn_en 0 V=((time > 2.52u) && (V(bit9) <= .9)) ? 1.8 : 0
Bn9_rn_enb n9_rn_enb 0 V=1.8-V(n9_rn_en)
Xn9_rn bn9 rn n9_rn_en n9_rn_enb vdd 0 adc_tgate WN=8 WP=16
VSAVE8 save8 0 PWL(0 0 4.974e-06 0 4.975e-06 1.8 4.99e-06 1.8 4.991e-06 0)
SSAVE8 decision mem8 save8 0 MEMSW
CMEM8 mem8 0 1p
RMEM8 mem8 0 1e15
.ic V(mem8)=0
BBIT8 bit8 0 V=(time < 4.375e-06) ? 0 : ((time < 4.992e-06) ? 1.8 : V(mem8))
BNBIT8 nbit8 0 V=1.8-V(bit8)
Bp8_cm_en p8_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp8_cm_enb p8_cm_enb 0 V=1.8-V(p8_cm_en)
Xp8_cm bp8 cm p8_cm_en p8_cm_enb vdd 0 adc_tgate WN=8 WP=16
Bp8_rp_en p8_rp_en 0 V=((time > 2.52u) && (V(nbit8) > .9)) ? 1.8 : 0
Bp8_rp_enb p8_rp_enb 0 V=1.8-V(p8_rp_en)
Xp8_rp bp8 rp p8_rp_en p8_rp_enb vdd 0 adc_tgate WN=8 WP=16
Bp8_rn_en p8_rn_en 0 V=((time > 2.52u) && (V(nbit8) <= .9)) ? 1.8 : 0
Bp8_rn_enb p8_rn_enb 0 V=1.8-V(p8_rn_en)
Xp8_rn bp8 rn p8_rn_en p8_rn_enb vdd 0 adc_tgate WN=8 WP=16
Bn8_cm_en n8_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn8_cm_enb n8_cm_enb 0 V=1.8-V(n8_cm_en)
Xn8_cm bn8 cm n8_cm_en n8_cm_enb vdd 0 adc_tgate WN=8 WP=16
Bn8_rp_en n8_rp_en 0 V=((time > 2.52u) && (V(bit8) > .9)) ? 1.8 : 0
Bn8_rp_enb n8_rp_enb 0 V=1.8-V(n8_rp_en)
Xn8_rp bn8 rp n8_rp_en n8_rp_enb vdd 0 adc_tgate WN=8 WP=16
Bn8_rn_en n8_rn_en 0 V=((time > 2.52u) && (V(bit8) <= .9)) ? 1.8 : 0
Bn8_rn_enb n8_rn_enb 0 V=1.8-V(n8_rn_en)
Xn8_rn bn8 rn n8_rn_en n8_rn_enb vdd 0 adc_tgate WN=8 WP=16
VSAVE7 save7 0 PWL(0 0 5.599e-06 0 5.6e-06 1.8 5.615e-06 1.8 5.616e-06 0)
SSAVE7 decision mem7 save7 0 MEMSW
CMEM7 mem7 0 1p
RMEM7 mem7 0 1e15
.ic V(mem7)=0
BBIT7 bit7 0 V=(time < 5e-06) ? 0 : ((time < 5.617e-06) ? 1.8 : V(mem7))
BNBIT7 nbit7 0 V=1.8-V(bit7)
Bp7_cm_en p7_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp7_cm_enb p7_cm_enb 0 V=1.8-V(p7_cm_en)
Xp7_cm bp7 cm p7_cm_en p7_cm_enb vdd 0 adc_tgate WN=8 WP=16
Bp7_rp_en p7_rp_en 0 V=((time > 2.52u) && (V(nbit7) > .9)) ? 1.8 : 0
Bp7_rp_enb p7_rp_enb 0 V=1.8-V(p7_rp_en)
Xp7_rp bp7 rp p7_rp_en p7_rp_enb vdd 0 adc_tgate WN=8 WP=16
Bp7_rn_en p7_rn_en 0 V=((time > 2.52u) && (V(nbit7) <= .9)) ? 1.8 : 0
Bp7_rn_enb p7_rn_enb 0 V=1.8-V(p7_rn_en)
Xp7_rn bp7 rn p7_rn_en p7_rn_enb vdd 0 adc_tgate WN=8 WP=16
Bn7_cm_en n7_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn7_cm_enb n7_cm_enb 0 V=1.8-V(n7_cm_en)
Xn7_cm bn7 cm n7_cm_en n7_cm_enb vdd 0 adc_tgate WN=8 WP=16
Bn7_rp_en n7_rp_en 0 V=((time > 2.52u) && (V(bit7) > .9)) ? 1.8 : 0
Bn7_rp_enb n7_rp_enb 0 V=1.8-V(n7_rp_en)
Xn7_rp bn7 rp n7_rp_en n7_rp_enb vdd 0 adc_tgate WN=8 WP=16
Bn7_rn_en n7_rn_en 0 V=((time > 2.52u) && (V(bit7) <= .9)) ? 1.8 : 0
Bn7_rn_enb n7_rn_enb 0 V=1.8-V(n7_rn_en)
Xn7_rn bn7 rn n7_rn_en n7_rn_enb vdd 0 adc_tgate WN=8 WP=16
VSAVE6 save6 0 PWL(0 0 6.224e-06 0 6.225e-06 1.8 6.24e-06 1.8 6.241e-06 0)
SSAVE6 decision mem6 save6 0 MEMSW
CMEM6 mem6 0 1p
RMEM6 mem6 0 1e15
.ic V(mem6)=0
BBIT6 bit6 0 V=(time < 5.625e-06) ? 0 : ((time < 6.242e-06) ? 1.8 : V(mem6))
BNBIT6 nbit6 0 V=1.8-V(bit6)
Bp6_cm_en p6_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp6_cm_enb p6_cm_enb 0 V=1.8-V(p6_cm_en)
Xp6_cm bp6 cm p6_cm_en p6_cm_enb vdd 0 adc_tgate WN=6.72 WP=13.44
Bp6_rp_en p6_rp_en 0 V=((time > 2.52u) && (V(nbit6) > .9)) ? 1.8 : 0
Bp6_rp_enb p6_rp_enb 0 V=1.8-V(p6_rp_en)
Xp6_rp bp6 rp p6_rp_en p6_rp_enb vdd 0 adc_tgate WN=6.72 WP=13.44
Bp6_rn_en p6_rn_en 0 V=((time > 2.52u) && (V(nbit6) <= .9)) ? 1.8 : 0
Bp6_rn_enb p6_rn_enb 0 V=1.8-V(p6_rn_en)
Xp6_rn bp6 rn p6_rn_en p6_rn_enb vdd 0 adc_tgate WN=6.72 WP=13.44
Bn6_cm_en n6_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn6_cm_enb n6_cm_enb 0 V=1.8-V(n6_cm_en)
Xn6_cm bn6 cm n6_cm_en n6_cm_enb vdd 0 adc_tgate WN=6.72 WP=13.44
Bn6_rp_en n6_rp_en 0 V=((time > 2.52u) && (V(bit6) > .9)) ? 1.8 : 0
Bn6_rp_enb n6_rp_enb 0 V=1.8-V(n6_rp_en)
Xn6_rp bn6 rp n6_rp_en n6_rp_enb vdd 0 adc_tgate WN=6.72 WP=13.44
Bn6_rn_en n6_rn_en 0 V=((time > 2.52u) && (V(bit6) <= .9)) ? 1.8 : 0
Bn6_rn_enb n6_rn_enb 0 V=1.8-V(n6_rn_en)
Xn6_rn bn6 rn n6_rn_en n6_rn_enb vdd 0 adc_tgate WN=6.72 WP=13.44
VSAVE5 save5 0 PWL(0 0 6.849e-06 0 6.85e-06 1.8 6.865e-06 1.8 6.866e-06 0)
SSAVE5 decision mem5 save5 0 MEMSW
CMEM5 mem5 0 1p
RMEM5 mem5 0 1e15
.ic V(mem5)=0
BBIT5 bit5 0 V=(time < 6.25e-06) ? 0 : ((time < 6.867e-06) ? 1.8 : V(mem5))
BNBIT5 nbit5 0 V=1.8-V(bit5)
Bp5_cm_en p5_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp5_cm_enb p5_cm_enb 0 V=1.8-V(p5_cm_en)
Xp5_cm bp5 cm p5_cm_en p5_cm_enb vdd 0 adc_tgate WN=4.7517576 WP=9.5035151
Bp5_rp_en p5_rp_en 0 V=((time > 2.52u) && (V(nbit5) > .9)) ? 1.8 : 0
Bp5_rp_enb p5_rp_enb 0 V=1.8-V(p5_rp_en)
Xp5_rp bp5 rp p5_rp_en p5_rp_enb vdd 0 adc_tgate WN=4.7517576 WP=9.5035151
Bp5_rn_en p5_rn_en 0 V=((time > 2.52u) && (V(nbit5) <= .9)) ? 1.8 : 0
Bp5_rn_enb p5_rn_enb 0 V=1.8-V(p5_rn_en)
Xp5_rn bp5 rn p5_rn_en p5_rn_enb vdd 0 adc_tgate WN=4.7517576 WP=9.5035151
Bn5_cm_en n5_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn5_cm_enb n5_cm_enb 0 V=1.8-V(n5_cm_en)
Xn5_cm bn5 cm n5_cm_en n5_cm_enb vdd 0 adc_tgate WN=4.7517576 WP=9.5035151
Bn5_rp_en n5_rp_en 0 V=((time > 2.52u) && (V(bit5) > .9)) ? 1.8 : 0
Bn5_rp_enb n5_rp_enb 0 V=1.8-V(n5_rp_en)
Xn5_rp bn5 rp n5_rp_en n5_rp_enb vdd 0 adc_tgate WN=4.7517576 WP=9.5035151
Bn5_rn_en n5_rn_en 0 V=((time > 2.52u) && (V(bit5) <= .9)) ? 1.8 : 0
Bn5_rn_enb n5_rn_enb 0 V=1.8-V(n5_rn_en)
Xn5_rn bn5 rn n5_rn_en n5_rn_enb vdd 0 adc_tgate WN=4.7517576 WP=9.5035151
VSAVE4 save4 0 PWL(0 0 7.474e-06 0 7.475e-06 1.8 7.49e-06 1.8 7.491e-06 0)
SSAVE4 decision mem4 save4 0 MEMSW
CMEM4 mem4 0 1p
RMEM4 mem4 0 1e15
.ic V(mem4)=0
BBIT4 bit4 0 V=(time < 6.875e-06) ? 0 : ((time < 7.492e-06) ? 1.8 : V(mem4))
BNBIT4 nbit4 0 V=1.8-V(bit4)
Bp4_cm_en p4_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp4_cm_enb p4_cm_enb 0 V=1.8-V(p4_cm_en)
Xp4_cm bp4 cm p4_cm_en p4_cm_enb vdd 0 adc_tgate WN=3.36 WP=6.72
Bp4_rp_en p4_rp_en 0 V=((time > 2.52u) && (V(nbit4) > .9)) ? 1.8 : 0
Bp4_rp_enb p4_rp_enb 0 V=1.8-V(p4_rp_en)
Xp4_rp bp4 rp p4_rp_en p4_rp_enb vdd 0 adc_tgate WN=3.36 WP=6.72
Bp4_rn_en p4_rn_en 0 V=((time > 2.52u) && (V(nbit4) <= .9)) ? 1.8 : 0
Bp4_rn_enb p4_rn_enb 0 V=1.8-V(p4_rn_en)
Xp4_rn bp4 rn p4_rn_en p4_rn_enb vdd 0 adc_tgate WN=3.36 WP=6.72
Bn4_cm_en n4_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn4_cm_enb n4_cm_enb 0 V=1.8-V(n4_cm_en)
Xn4_cm bn4 cm n4_cm_en n4_cm_enb vdd 0 adc_tgate WN=3.36 WP=6.72
Bn4_rp_en n4_rp_en 0 V=((time > 2.52u) && (V(bit4) > .9)) ? 1.8 : 0
Bn4_rp_enb n4_rp_enb 0 V=1.8-V(n4_rp_en)
Xn4_rp bn4 rp n4_rp_en n4_rp_enb vdd 0 adc_tgate WN=3.36 WP=6.72
Bn4_rn_en n4_rn_en 0 V=((time > 2.52u) && (V(bit4) <= .9)) ? 1.8 : 0
Bn4_rn_enb n4_rn_enb 0 V=1.8-V(n4_rn_en)
Xn4_rn bn4 rn n4_rn_en n4_rn_enb vdd 0 adc_tgate WN=3.36 WP=6.72
VSAVE3 save3 0 PWL(0 0 8.099e-06 0 8.1e-06 1.8 8.115e-06 1.8 8.116e-06 0)
SSAVE3 decision mem3 save3 0 MEMSW
CMEM3 mem3 0 1p
RMEM3 mem3 0 1e15
.ic V(mem3)=0
BBIT3 bit3 0 V=(time < 7.5e-06) ? 0 : ((time < 8.117e-06) ? 1.8 : V(mem3))
BNBIT3 nbit3 0 V=1.8-V(bit3)
Bp3_cm_en p3_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp3_cm_enb p3_cm_enb 0 V=1.8-V(p3_cm_en)
Xp3_cm bp3 cm p3_cm_en p3_cm_enb vdd 0 adc_tgate WN=2.3758788 WP=4.7517576
Bp3_rp_en p3_rp_en 0 V=((time > 2.52u) && (V(nbit3) > .9)) ? 1.8 : 0
Bp3_rp_enb p3_rp_enb 0 V=1.8-V(p3_rp_en)
Xp3_rp bp3 rp p3_rp_en p3_rp_enb vdd 0 adc_tgate WN=2.3758788 WP=4.7517576
Bp3_rn_en p3_rn_en 0 V=((time > 2.52u) && (V(nbit3) <= .9)) ? 1.8 : 0
Bp3_rn_enb p3_rn_enb 0 V=1.8-V(p3_rn_en)
Xp3_rn bp3 rn p3_rn_en p3_rn_enb vdd 0 adc_tgate WN=2.3758788 WP=4.7517576
Bn3_cm_en n3_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn3_cm_enb n3_cm_enb 0 V=1.8-V(n3_cm_en)
Xn3_cm bn3 cm n3_cm_en n3_cm_enb vdd 0 adc_tgate WN=2.3758788 WP=4.7517576
Bn3_rp_en n3_rp_en 0 V=((time > 2.52u) && (V(bit3) > .9)) ? 1.8 : 0
Bn3_rp_enb n3_rp_enb 0 V=1.8-V(n3_rp_en)
Xn3_rp bn3 rp n3_rp_en n3_rp_enb vdd 0 adc_tgate WN=2.3758788 WP=4.7517576
Bn3_rn_en n3_rn_en 0 V=((time > 2.52u) && (V(bit3) <= .9)) ? 1.8 : 0
Bn3_rn_enb n3_rn_enb 0 V=1.8-V(n3_rn_en)
Xn3_rn bn3 rn n3_rn_en n3_rn_enb vdd 0 adc_tgate WN=2.3758788 WP=4.7517576
VSAVE2 save2 0 PWL(0 0 8.724e-06 0 8.725e-06 1.8 8.74e-06 1.8 8.741e-06 0)
SSAVE2 decision mem2 save2 0 MEMSW
CMEM2 mem2 0 1p
RMEM2 mem2 0 1e15
.ic V(mem2)=0
BBIT2 bit2 0 V=(time < 8.125e-06) ? 0 : ((time < 8.742e-06) ? 1.8 : V(mem2))
BNBIT2 nbit2 0 V=1.8-V(bit2)
Bp2_cm_en p2_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp2_cm_enb p2_cm_enb 0 V=1.8-V(p2_cm_en)
Xp2_cm bp2 cm p2_cm_en p2_cm_enb vdd 0 adc_tgate WN=1.68 WP=3.36
Bp2_rp_en p2_rp_en 0 V=((time > 2.52u) && (V(nbit2) > .9)) ? 1.8 : 0
Bp2_rp_enb p2_rp_enb 0 V=1.8-V(p2_rp_en)
Xp2_rp bp2 rp p2_rp_en p2_rp_enb vdd 0 adc_tgate WN=1.68 WP=3.36
Bp2_rn_en p2_rn_en 0 V=((time > 2.52u) && (V(nbit2) <= .9)) ? 1.8 : 0
Bp2_rn_enb p2_rn_enb 0 V=1.8-V(p2_rn_en)
Xp2_rn bp2 rn p2_rn_en p2_rn_enb vdd 0 adc_tgate WN=1.68 WP=3.36
Bn2_cm_en n2_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn2_cm_enb n2_cm_enb 0 V=1.8-V(n2_cm_en)
Xn2_cm bn2 cm n2_cm_en n2_cm_enb vdd 0 adc_tgate WN=1.68 WP=3.36
Bn2_rp_en n2_rp_en 0 V=((time > 2.52u) && (V(bit2) > .9)) ? 1.8 : 0
Bn2_rp_enb n2_rp_enb 0 V=1.8-V(n2_rp_en)
Xn2_rp bn2 rp n2_rp_en n2_rp_enb vdd 0 adc_tgate WN=1.68 WP=3.36
Bn2_rn_en n2_rn_en 0 V=((time > 2.52u) && (V(bit2) <= .9)) ? 1.8 : 0
Bn2_rn_enb n2_rn_enb 0 V=1.8-V(n2_rn_en)
Xn2_rn bn2 rn n2_rn_en n2_rn_enb vdd 0 adc_tgate WN=1.68 WP=3.36
VSAVE1 save1 0 PWL(0 0 9.349e-06 0 9.35e-06 1.8 9.365e-06 1.8 9.366e-06 0)
SSAVE1 decision mem1 save1 0 MEMSW
CMEM1 mem1 0 1p
RMEM1 mem1 0 1e15
.ic V(mem1)=0
BBIT1 bit1 0 V=(time < 8.75e-06) ? 0 : ((time < 9.367e-06) ? 1.8 : V(mem1))
BNBIT1 nbit1 0 V=1.8-V(bit1)
Bp1_cm_en p1_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp1_cm_enb p1_cm_enb 0 V=1.8-V(p1_cm_en)
Xp1_cm bp1 cm p1_cm_en p1_cm_enb vdd 0 adc_tgate WN=1.1879394 WP=2.3758788
Bp1_rp_en p1_rp_en 0 V=((time > 2.52u) && (V(nbit1) > .9)) ? 1.8 : 0
Bp1_rp_enb p1_rp_enb 0 V=1.8-V(p1_rp_en)
Xp1_rp bp1 rp p1_rp_en p1_rp_enb vdd 0 adc_tgate WN=1.1879394 WP=2.3758788
Bp1_rn_en p1_rn_en 0 V=((time > 2.52u) && (V(nbit1) <= .9)) ? 1.8 : 0
Bp1_rn_enb p1_rn_enb 0 V=1.8-V(p1_rn_en)
Xp1_rn bp1 rn p1_rn_en p1_rn_enb vdd 0 adc_tgate WN=1.1879394 WP=2.3758788
Bn1_cm_en n1_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn1_cm_enb n1_cm_enb 0 V=1.8-V(n1_cm_en)
Xn1_cm bn1 cm n1_cm_en n1_cm_enb vdd 0 adc_tgate WN=1.1879394 WP=2.3758788
Bn1_rp_en n1_rp_en 0 V=((time > 2.52u) && (V(bit1) > .9)) ? 1.8 : 0
Bn1_rp_enb n1_rp_enb 0 V=1.8-V(n1_rp_en)
Xn1_rp bn1 rp n1_rp_en n1_rp_enb vdd 0 adc_tgate WN=1.1879394 WP=2.3758788
Bn1_rn_en n1_rn_en 0 V=((time > 2.52u) && (V(bit1) <= .9)) ? 1.8 : 0
Bn1_rn_enb n1_rn_enb 0 V=1.8-V(n1_rn_en)
Xn1_rn bn1 rn n1_rn_en n1_rn_enb vdd 0 adc_tgate WN=1.1879394 WP=2.3758788
VSAVE0 save0 0 PWL(0 0 9.974e-06 0 9.975e-06 1.8 9.99e-06 1.8 9.991e-06 0)
SSAVE0 decision mem0 save0 0 MEMSW
CMEM0 mem0 0 1p
RMEM0 mem0 0 1e15
.ic V(mem0)=0
BBIT0 bit0 0 V=(time < 9.375e-06) ? 0 : ((time < 9.992e-06) ? 1.8 : V(mem0))
BNBIT0 nbit0 0 V=1.8-V(bit0)
Bp0_cm_en p0_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bp0_cm_enb p0_cm_enb 0 V=1.8-V(p0_cm_en)
Xp0_cm bp0 cm p0_cm_en p0_cm_enb vdd 0 adc_tgate WN=0.84 WP=1.68
Bp0_rp_en p0_rp_en 0 V=((time > 2.52u) && (V(nbit0) > .9)) ? 1.8 : 0
Bp0_rp_enb p0_rp_enb 0 V=1.8-V(p0_rp_en)
Xp0_rp bp0 rp p0_rp_en p0_rp_enb vdd 0 adc_tgate WN=0.84 WP=1.68
Bp0_rn_en p0_rn_en 0 V=((time > 2.52u) && (V(nbit0) <= .9)) ? 1.8 : 0
Bp0_rn_enb p0_rn_enb 0 V=1.8-V(p0_rn_en)
Xp0_rn bp0 rn p0_rn_en p0_rn_enb vdd 0 adc_tgate WN=0.84 WP=1.68
Bn0_cm_en n0_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bn0_cm_enb n0_cm_enb 0 V=1.8-V(n0_cm_en)
Xn0_cm bn0 cm n0_cm_en n0_cm_enb vdd 0 adc_tgate WN=0.84 WP=1.68
Bn0_rp_en n0_rp_en 0 V=((time > 2.52u) && (V(bit0) > .9)) ? 1.8 : 0
Bn0_rp_enb n0_rp_enb 0 V=1.8-V(n0_rp_en)
Xn0_rp bn0 rp n0_rp_en n0_rp_enb vdd 0 adc_tgate WN=0.84 WP=1.68
Bn0_rn_en n0_rn_en 0 V=((time > 2.52u) && (V(bit0) <= .9)) ? 1.8 : 0
Bn0_rn_enb n0_rn_enb 0 V=1.8-V(n0_rn_en)
Xn0_rn bn0 rn n0_rn_en n0_rn_enb vdd 0 adc_tgate WN=0.84 WP=1.68
VCLK clk 0 PWL(0 0 2.5u 0 2.815e-06 0 2.816e-06 1.8 3.121e-06 1.8 3.122e-06 0 3.44e-06 0 3.441e-06 1.8 3.746e-06 1.8 3.747e-06 0 4.065e-06 0 4.066e-06 1.8 4.371e-06 1.8 4.372e-06 0 4.69e-06 0 4.691e-06 1.8 4.996e-06 1.8 4.997e-06 0 5.315e-06 0 5.316e-06 1.8 5.621e-06 1.8 5.622e-06 0 5.94e-06 0 5.941e-06 1.8 6.246e-06 1.8 6.247e-06 0 6.565e-06 0 6.566e-06 1.8 6.871e-06 1.8 6.872e-06 0 7.19e-06 0 7.191e-06 1.8 7.496e-06 1.8 7.497e-06 0 7.815e-06 0 7.816e-06 1.8 8.121e-06 1.8 8.122e-06 0 8.44e-06 0 8.441e-06 1.8 8.746e-06 1.8 8.747e-06 0 9.065e-06 0 9.066e-06 1.8 9.371e-06 1.8 9.372e-06 0 9.69e-06 0 9.691e-06 1.8 9.996e-06 1.8 9.997e-06 0)
Bpdummy_cm_en pdummy_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bpdummy_cm_enb pdummy_cm_enb 0 V=1.8-V(pdummy_cm_en)
Xpdummy_cm dp cm pdummy_cm_en pdummy_cm_enb vdd 0 adc_tgate WN=0.84 WP=1.68
Bpdummy_rp_en pdummy_rp_en 0 V=((time > 2.52u) && (0 > .9)) ? 1.8 : 0
Bpdummy_rp_enb pdummy_rp_enb 0 V=1.8-V(pdummy_rp_en)
Xpdummy_rp dp rp pdummy_rp_en pdummy_rp_enb vdd 0 adc_tgate WN=0.84 WP=1.68
Bpdummy_rn_en pdummy_rn_en 0 V=((time > 2.52u) && (0 <= .9)) ? 1.8 : 0
Bpdummy_rn_enb pdummy_rn_enb 0 V=1.8-V(pdummy_rn_en)
Xpdummy_rn dp rn pdummy_rn_en pdummy_rn_enb vdd 0 adc_tgate WN=0.84 WP=1.68
Bndummy_cm_en ndummy_cm_en 0 V=(time < 2.50u) ? 1.8 : 0
Bndummy_cm_enb ndummy_cm_enb 0 V=1.8-V(ndummy_cm_en)
Xndummy_cm dn cm ndummy_cm_en ndummy_cm_enb vdd 0 adc_tgate WN=0.84 WP=1.68
Bndummy_rp_en ndummy_rp_en 0 V=((time > 2.52u) && (1.8 > .9)) ? 1.8 : 0
Bndummy_rp_enb ndummy_rp_enb 0 V=1.8-V(ndummy_rp_en)
Xndummy_rp dn rp ndummy_rp_en ndummy_rp_enb vdd 0 adc_tgate WN=0.84 WP=1.68
Bndummy_rn_en ndummy_rn_en 0 V=((time > 2.52u) && (1.8 <= .9)) ? 1.8 : 0
Bndummy_rn_enb ndummy_rn_enb 0 V=1.8-V(ndummy_rn_en)
Xndummy_rn dn rn ndummy_rn_en ndummy_rn_enb vdd 0 adc_tgate WN=0.84 WP=1.68
XCP tp bp11 bp10 bp9 bp8 bp7 bp6 bp5 bp4 bp3 bp2 bp1 bp0 dp adc_cdac12
XCN tn bn11 bn10 bn9 bn8 bn7 bn6 bn5 bn4 bn3 bn2 bn1 bn0 dn adc_cdac12
.control
set num_threads=1
set wr_singlescale
set wr_vecnames
set numdgt=12
tran 2n 10.1u uic
wrdata /repo/v2/analog/adc/results/sar_+0.3000000.tsv v(tp) v(tn) v(op) v(on) v(clk) v(rp) v(rn) i(vdd) i(vrp) i(vrn) v(mem11) v(mem10) v(mem9) v(mem8) v(mem7) v(mem6) v(mem5) v(mem4) v(mem3) v(mem2) v(mem1) v(mem0)
quit
.endc
.end
